US06569851B1
Into a stirred suspension of L-(+)-ornithine hydrochloride (Aldrich) in methanol was bubbled anhydrous hydrochloric acid gas until the solution was saturated. The reaction mixture was capped with a rubber septum and stirring was continued overnight at room temperature. The solvent was then stripped under reduced pressure and the residue triturated with ether. The resulting solid was dried under reduced pressure to afford L-(+)-ornithine methyl ester hydrochloride as a white solid (97% yield).

reactant | L-(+)-ornithine hydrochloride | Cl.N[C@@H](CCCN)C(=O)O
reactant | methanol | CO | CH4O
product | L-(+)-ornithine methyl ester hydrochloride | 97% yield | Cl.COC([C@@H](N)CCCN)=O | InChI=1S/C6H14N2O2.ClH/c1-10-6(9)5(8)3-2-4-7;/h5H,2-4,7-8H2,1H3;1H/t5-;/m0./s1
